US07320994B2
1-(3,5-bis-trifluoromethyl-benzyl)-5′-(2-chloro-benzyl)-5-phenyl-1H,1′H-[4,4′]bi[1,2,3]triazole
Dissolve [1′-(3,5-bis-trifluoromethyl-benzyl)-5′-phenyl-1H,1′H-[4,4′]bi[[1,2,3]triazolyl]-5-yl]-(2-chloro-phenyl)-methanol (38 mg, 0.066 mmol) and 1.5 mL CH2Cl2. Carefully add triethylsilane (23 mg, 31.4 μL, 0.197 mmol). Cool to 0° C. and add trifluoroacetic acid (452 mg, 305 μL, 3.96 mmol) and stir. After 15 hours, pour into 10 mL of (saturated aqueous NaHCO3) and 20 mL of CH2Cl2. Extract 3 times with CH2Cl2 and 1 time with EtOAc. Combine the organics, dry over MgSO4 and filter and concentrate. Apply the mixture to a 2 mm chromatotron plate with CH2Cl2 and EtOAc and elute with a 100 mL of Hexanes, and then 200 mL each of of 10:90 EtOAc/Hexanes, 20:80 EtOAc/Hexanes, 30:70 EtOAc/Hexanes, 50:50 Hexanes/EtOAc to provide the title compound. Exact Mass 562.1: mass spectrum (IS): m/z=563.1 (M+1), 561.1 (M−1); 1H NMR (250 MHz, CDCl3) 7.72 (s, 1H), 7.42-7.28 (m, 5H), 7.24 (m, 1H), 7.16-6.97 (m, 6H), 5.52 (s, 2H), 4.37 (s, 2H).

reactant | [1′-(3,5-bis-trifluoromethyl-benzyl)-5′-phenyl-1H,1′H-[4,4′]bi[[1,2,3]triazolyl]-5-yl]-(2-chloro-phenyl)-methanol | 0.066 mmol, 38 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N=NNC2C(O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C26H17ClF6N6O
reactant | triethylsilane | 0.197 mmol, 31.4 μL, 23 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 3.96 mmol, 305 μL, 452 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-bis-trifluoromethyl-benzyl)-5′-(2-chloro-benzyl)-5-phenyl-1H,1′H-[4,4′]bi[1,2,3]triazole | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N=NNC2CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C26H17ClF6N6
